US07863302B2
4-Bromomethyl-3-(2,6-dichloro-phenyl)-5-isopropyl-isoxazole
To a solution of [3-(2,6-dichloro-phenyl)-5-isopropyl-isoxazol-4-yl]-methanol (1.14 g, 4 mmol) in THF (20 mL) is added PBr3 (0.76 mL, 8 mmol). The reaction mixture is stirred at reflux for 30 minutes. The reaction mixture is diluted with EtOAc and is washed with 0.2 N HCl. The organic layer is separated, dried (MgSO4), filtered, and concentrated to give the title compound as an oil.

reactant | [3-(2,6-dichloro-phenyl)-5-isopropyl-isoxazol-4-yl]-methanol | 4 mmol, 1.14 g | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1CO)C(C)C | C13H13Cl2NO2
reactant | PBr3 | 8 mmol, 0.76 mL | P(Br)(Br)Br | Br3P
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Bromomethyl-3-(2,6-dichloro-phenyl)-5-isopropyl-isoxazole | BrCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl | C13H12BrCl2NO
